US04749791
1155 g (6.4 mol) of 6-chloro-3,4-dihydro-2(1H)-naphthalenone were dissolved in 5 l of toluene, 500 g (7.0 mol) of pyrrolidine and subsequently a solution of 26 g (0.14 mol) of p-toluenesulphonic acid in toluene were added dropwise thereto and the mixture was boiled under reflux. When about 120 ml of water had separated, 4 l of toluene were distilled off and the mixture was left to cool slowly. A solid crystallized out. Filtration and washing with acetone gave 1-(6-chloro-3,4-dihydro-2-naphthyl)pyrrolidine of melting point 117°-118°. Concentration of the mother liquor, suspension of the residue in ether, filtration and washing with acetone gave a further portion of the above product of melting point 117°-118°.

reactant | 6-chloro-3,4-dihydro-2(1H)-naphthalenone | 6.4 mol, 1155 g | ClC=1C=C2CCC(CC2=CC1)=O | C10H9ClO
reactant | pyrrolidine | 7.0 mol, 500 g | N1CCCC1 | C4H9N
reactant | p-toluenesulphonic acid | 0.14 mol, 26 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 5 l | C1(=CC=CC=C1)C | C7H8
product | 1-(6-chloro-3,4-dihydro-2-naphthyl)pyrrolidine | ClC=1C=C2CCC(=CC2=CC1)N1CCCC1 | C14H16ClN
